* File: netlist.sp.pex
* Created: Wed Jun 11 15:46:59 2025
* Program "Calibre xRC"
* Version "v2019.2_26.18"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_TEST_INV3%VSS 1 6 14 27
c0 38 0 0.0144993f
r1 27 38 13.0062
r2 23 34 68.8775
r3 23 38 137.755
r4 22 27 5.80247
r5 22 23 2.27662
r6 18 22 3.33333
r7 18 34 12.142
r8 14 18 1.54321
r9 6 38 54.8065
r10 1 34 62.214
.ends

.subckt PM_TEST_INV3%VDD 1 6 14 27
c0 38 0 0.0148666f
r1 27 38 14.179
r2 23 34 68.8775
r3 23 38 137.755
r4 22 27 4.62963
r5 22 23 2.27662
r6 18 22 3.33333
r7 18 34 12.142
r8 14 18 1.11111
r9 6 38 54.375
r10 1 34 61.7824
.ends

.subckt PM_TEST_INV3%A 2 7 15
c0 2 0 0.00216642f
r1 5 15 22.8903
r2 5 7 259.152
r3 2 5 259.152
.ends

.subckt PM_TEST_INV3%Y 1 6 14
c0 14 0 0.0061895f
r1 6 14 22.0313
r2 1 14 46.6879
.ends

